US04284634
To a solution (132 ml) of n-propyl 6-dimethoxymethyl-2-methyl-4-(2-cyanophenyl)-5-methoxycarbonyl-1,4-dihydropyridine-3-carboxylate (13.28 g) in acetone was added dropwise 6 N hydrochloric acid (13.2 ml) at 12° C. with stirring, and the stirring was continued for 5.5 hours. The resultant mixture was adjusted to about pH 7 with an aqueous sodium bicarbonate solution. The acetone was distilled off under reduced pressure. The precipitated crystals were collected by filtration and washed with an aqueous sodium chloride solution, water and petroleum ether, successively, and then recrystallized from a mixture of benzene and n-hexane. The crystals were collected by filtration and washed with diethyl ether to give n-propyl 6-formyl-2-methyl-4-(2-cyanophenyl)-5-methoxycarbonyl-1,4-dihydropyridine-3-carboxylate (3.37 g), mp 137.5°-141.0° C.

reactant | n-propyl 6-dimethoxymethyl-2-methyl-4-(2-cyanophenyl)-5-methoxycarbonyl-1,4-dihydropyridine-3-carboxylate | 132 ml, 13.28 g | COC(C1=C(C(C(=C(N1)C)C(=O)OCCC)C1=C(C=CC=C1)C#N)C(=O)OC)OC | C22H26N2O6
reactant | hydrochloric acid | 6 N, 13.2 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | n-propyl 6-formyl-2-methyl-4-(2-cyanophenyl)-5-methoxycarbonyl-1,4-dihydropyridine-3-carboxylate | 3.37 g | C(=O)C1=C(C(C(=C(N1)C)C(=O)OCCC)C1=C(C=CC=C1)C#N)C(=O)OC | C20H20N2O5
